US08114902B2
4-bromo-2-chlorophenylacetic acid methyl ester
To a solution of 4-bromo-2-chlorophenylacetic acid (240 g) of Reference Example 15 in N,N-dimethylformamide (3000 mL) were added potassium carbonate (399 g) and iodomethane (164 g) at 7° C., and the mixture was stirred at the same temperature for 3 hr and stirred at room temperature for 19 hr. The reaction mixture was poured into water, and partitioned and extracted with ethyl acetate. The organic layer was washed 3 times with 25% brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (259 g) as a brown oil.

reactant | 4-bromo-2-chlorophenylacetic acid | 240 g | BrC1=CC(=C(C=C1)CC(=O)O)Cl | C8H6BrClO2
reactant | potassium carbonate | 399 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 164 g | IC | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3000 mL | CN(C=O)C | C3H7NO
product | 4-bromo-2-chlorophenylacetic acid methyl ester | 259 g | COC(CC1=C(C=C(C=C1)Br)Cl)=O | C9H8BrClO2
